US05831115
N-Benzyl-N-(trans,trans-5-phenyl-2,4-pentadienyl)amine
Benzylamine (1 g, 9.3 mmole) and vinyl triphenylphosphonium bromide (3.45 g, 9,3 mmole) are treated with 20 mL CH3CN and the resulting slurry is heated for 36 hours at 40° C. and refluxed 5 hours. The reaction mixture is cooled to room temperature and the solvent removed in vacuo. The solid is treated with 20 mL THF, and the resulting slurry is treated with 17 mL 2.0M BuLi in cyclohexane. The red anion solution is stirred 30 minutes at room temperature then cinnamaldehyde (10 mmol) is added, and the resulting suspension is stirred 18 hours at room temperature. The reaction mixture is quenched with 20 mL 5% HCl followed by extraction with ethyl ether (2×50 mL). The aqueous layer is adjusted to pH 10 with 1N NaOH and extracted with CH2Cl2 (2×50 mL). The combined organic extracts are washed with 10% NaCl, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford the title compound.

reactant | Benzylamine | 9.3 mmole, 1 g | C(C1=CC=CC=C1)N | C7H9N
reactant | vinyl triphenylphosphonium bromide | 9,3 mmole, 3.45 g | [Br-].C(=C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | cinnamaldehyde | 10 mmol | C(C=CC1=CC=CC=C1)=O | C9H8O
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | N-Benzyl-N-(trans,trans-5-phenyl-2,4-pentadienyl)amine | C(C1=CC=CC=C1)NC\C=C\C=C\C1=CC=CC=C1 | C18H19N
